US03959298
5.0 g. of Acetonine, 0.5 g. of water and 3.1 g. of methanesulfonic acid were added to a mixed solvent comprising 35 g. of acetone and 35 g. of methanol. The mixture was stirred at room temperature for 24 hours to effect the reaction. After completion of the reaction, the reaction mixture was purified in the same manner as in Example 5 to obtain triacetonamine in a yield of 130%.

reactant | Acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | water | O | H2O
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | acetone | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
product | triacetonamine | yield of 130% | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
